US04770968
Synthesis of p-(Chlorodimethylsilyl)styrene Terminating Agent
Two milliliters of chlorostyrene was added to 0.97 gram of magnesium turnings in 20 milliliters (ml) of dry tetrahydrofuran under argon. A crystal, about 5 milligrams of iodine, was then added, and the reaction mixture was heated at 65° C. with an air gun until the reaction started (approximately 15 minutes). Thereafter, an additional 2.33 milliliters of chlorostyrene was added slowly to the reaction mixture with a syringe over a period of 15 minutes. The reaction mixture was then refluxed for about 5 minutes at 67° C., and then allowed to cool to room temperature. Dichlorodimethylsilane (9.7 milliliters) was then carefully added with a syringe, (the reaction was exothermic) followed by stirring at 60° C. in an oil bath for 30 minutes. The reaction mixture was then cooled to room temperature, diluted with anhydrous diethylether (approximately 75 ml), and filtered to remove the insoluble magnesium salts. Subsequently, the solvent tetrahydrofuran was removed under reduced pressure and the resulting oil was distilled to yield 3.9 grams (55 percent) of the above product, which was characterized by NMR.

reactant | chlorostyrene | Two milliliters | ClC=CC1=CC=CC=C1 | C8H7Cl
reactant | magnesium | 0.97 gram | [Mg] | Mg
reactant | iodine | about 5 milligrams | II | I2
reactant | chlorostyrene | 2.33 milliliters | ClC=CC1=CC=CC=C1 | C8H7Cl
reactant | Dichlorodimethylsilane | 9.7 milliliters | Cl[Si](C)(C)Cl | C2H6Cl2Si
solvent | tetrahydrofuran | 20 milliliters | O1CCCC1 | C4H8O
solvent | diethylether | approximately 75 ml | C(C)OCC | C4H10O
product | p-(Chlorodimethylsilyl)styrene | 3.9 grams, 55 percent | Cl[Si](C1=CC=C(C=C)C=C1)(C)C | C10H13ClSi
